US05008454
Synthesis of 4-[3-(octadecyloxy)propoxy]butanol:
Sodium hydride (1.2 g) is heated at 70° C. for 10 minutes in dimethyl sulfoxide (50 ml), to which is added 1,4-butanediol (4.5 g). The mixture is heated for one further hour. To this reaction mixture is added dropwise a solution of 3-(octadecyloxy)propyl methanesulfonate obtained in Reference Example 1 (4.06 g) in dimethyl sulfoxide (15 ml), and the mixture is stirred at 70° C. for one hour. The reaction mixture is poured into cold water, and the mixture is subjected to extraction with a mixture of hexane and ethyl acetate. The extract is washed with water and then dried, and the solvents are then distilled off under reduced pressure. The residue is subjected to purification by means of silica gel column chromatography to obtain the above-titled compound (2.2 g).

reactant | Sodium hydride | 1.2 g | [H-].[Na+]
reactant | 1,4-butanediol | 4.5 g | C(CCCO)O | C4H10O2
reactant | 3-(octadecyloxy)propyl methanesulfonate | CS(=O)(=O)OCCCOCCCCCCCCCCCCCCCCCC | C22H46O4S
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 15 ml | CS(=O)C | C2H6OS
product | 4-[3-(octadecyloxy)propoxy]butanol | 2.2 g | C(CCCCCCCCCCCCCCCCC)OCCCOCCCCO | C25H52O3
